US07304083B2
A solution of the 1-(3-ethylpentyl)-2-nitro-1H-imidazole (370 mg) and 10% palladium-carbon (200 mg) in an ethanol (5 ml)-ethyl acetate (5 ml) mixture was stirred at room temperature and normal pressure for 20 hours under a hydrogen stream. After filtering the reaction mixture through celite, it was washed with ethyl acetate-methanol. The filtrate was distilled off under reduced pressure to yield a crude product of 1-(3-ethylpentyl)-1H-2-imidazoleamine (305 mg) as a light yellow solid. A solution of the 1-(3-ethylpentyl)-1H-2-imidazoleamine (305 mg, 1.68 mmol) and 2-bromo-1-[3,5-di(tert-butyl)-4-hydroxyphenyl]-1-ethanone (660 mg, 2.02 mmol) in methanol (20 ml) was heated at 60° C. for 3 hours. The reaction mixture was distilled under reduced pressure, and the obtained crude product was recrystallized from ethyl acetate. After washing the crystals with diethyl ether, they were dried to yield the target compound (700 mg) as a colorless amorphous solid.

reactant | 1-(3-ethylpentyl)-2-nitro-1H-imidazole | 370 mg | C(C)C(CCN1C(=NC=C1)[N+](=O)[O-])CC | C10H17N3O2
reactant | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-ethylpentyl)-1H-2-imidazoleamine | 305 mg | C(C)C(CCN1C(=NC=C1)N)CC | C10H19N3
